US06627645B2
1-(3-Bromo-propyl)-1H-indazole (22)
1,3-Dibromopropane (508 μl, 5.0 mmol)) was dissolved in 10 mL DMF and placed in a 100 mL flask. Indazole (592 mg, 5.0 mmol) and KOH (282 mg, 5.0 mmol) were added and the suspension was stirred overnight at room temperature. Ethyl acetate (50 mL) and water (50 mL) were added. Phases were separated and the aqueous phase was re-extracted with ethyl acetate (50 mL). The combined organic phases were washed with brine, dried over magnesium sulphate and evaporated to dryness to produce 751 mg of a yellow oil. Crude product was further purified by column chromatography (0-10% methanol:dichloromethane) to produce pure 22 (169 mg, 14%).

reactant | 1,3-Dibromopropane | 5.0 mmol, 508 μl | BrCCCBr | C3H6Br2
reactant | Indazole | 5.0 mmol, 592 mg | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | KOH | 5.0 mmol, 282 mg | [OH-].[K+]
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 1-(3-Bromo-propyl)-1H-indazole | 751 mg | BrCCCN1N=CC2=CC=CC=C12 | C10H11BrN2
